US07319104B2
A mixture of 2,5-dibromo-pyridine (5 g; 21.10 mmol) and tyramine (5.79 g; 42.21 mmol) was heated at 200C for 1 hour. Upon cooling the residue was taken up into ethyl acetate, water and 1N HCl. The phases were separated and the organic phase was washed twice with 1N HCl. The combined aqueous phases were basified to pH-9 with 2N NaOH and extracted twice with ethyl acetate. The combined organic phases were washed with brine, dried over sodium sulfate and concentrated to afford 4-{2-[(5-bromopyridin-2-yl)amino]ethyl}phenol as a beige solid (5 g; 80% yield), which was used in the next step without further purification.

reactant | 2,5-dibromo-pyridine | 21.10 mmol, 5 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | tyramine | 42.21 mmol, 5.79 g | NCCC1=CC=C(C=C1)O | C8H11NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | HCl | 1N | Cl | ClH
solvent | water | O | H2O
product | 4-{2-[(5-bromopyridin-2-yl)amino]ethyl}phenol | 80% yield | BrC=1C=CC(=NC1)NCCC1=CC=C(C=C1)O | C13H13BrN2O
